US06054412
3-(2,4-Dichloro-5-nitrophenyl)-1-methyl-4,5-di-(trifluoromethyl)-1H-pyrazole (No. Ic.003)
21 g (58 mmol) of 3-(2,4-dichlorophenyl)-1-methyl-4,5-di-(trifluoromethyl)-1H-pyrazole were added, at (-30)° C., to 250 ml of concentrated nitric acid, whereupon the mixture was stirred for 1 hour at (-10)° C. The solution was subsequently stirred into 1.2 l of ice-water. The product was then extracted with dichloromethane. The organic phase was dried over magnesium sulfate and concentrated.

reactant | 3-(2,4-dichlorophenyl)-1-methyl-4,5-di-(trifluoromethyl)-1H-pyrazole | 58 mmol, 21 g | ClC1=C(C=CC(=C1)Cl)C1=NN(C(=C1C(F)(F)F)C(F)(F)F)C | C12H6Cl2F6N2
reactant | nitric acid | 250 ml | [N+](=O)(O)[O-] | HNO3
product | 3-(2,4-Dichloro-5-nitrophenyl)-1-methyl-4,5-di-(trifluoromethyl)-1H-pyrazole | ClC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])C1=NN(C(=C1C(F)(F)F)C(F)(F)F)C | C12H5Cl2F6N3O2
